US06297259B1
N-Methyl-N-(4-(4-(1-(2-ethyoxyethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3-chlorophenyl)butyl)-3,4,5-trimethoxybenzamide
Prepare by the method of Example 21.1 using N-methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3-chlorophenyl)butyl)-3,4,5-trimethoxybenzamide and 2-chloroethyl ethyl ether to give the title compound.

reactant | N-methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3-chlorophenyl)butyl)-3,4,5-trimethoxybenzamide | CN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2)C2=CC(=CC=C2)Cl | C34H39ClN4O5
reactant | 2-chloroethyl ethyl ether | C(C)OCCCl | C4H9ClO
product | N-Methyl-N-(4-(4-(1-(2-ethyoxyethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3-chlorophenyl)butyl)-3,4,5-trimethoxybenzamide | CN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1CCOCC)C=CC=C2)C2=CC(=CC=C2)Cl | C38H47ClN4O6
